Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
GENERAL MEDICINE HOSPITALIST ADMISSION HISTORY AND PHYSICAL
.
.
CHIEF COMPLAINT: Dyspnea on exertion
.
.
PCP: ___ ___
 
Major Surgical or Invasive Procedure:
NONE
 
History of Present Illness:
___ old male with MMP including severe COPD on home O2 and 
chronic prednisone, DM, tobacco abuse, recent admisison ___ 
for LLE cellulitis on bactrim/cipro who presents to ER with 
3days of worsening dypnea on exertion from baseline. SOB with 
walking 10feet, cough with yellow sputum. Uses 4L O2 at home 
which is stable. Uses combivent bid and albuterol 
q3hours-->q2hours. Typical of his COPD flares. On prednisone 
10mg qod at home. No orthopnea or h/o CHF. No fevers/chills. No 
chest pain. Symptoms getting worse so came to ER. 
Was admitted ___ for LLE cellulitis after traumatic 
abrasion, placed on bactrim/cipro, but has not noted much 
improvement with this, though no worsening. area is still red, 
warm, and tender per pt. Again, no fevers. 
Has not had a bowel movement for 1week, takes softners at home. 
Has been on lasix for many years for chronic ___ edema. No h/o 
CHF, echo ___ wtih normal EF.  No urinary complaints. 
On arrival, 88% 5L nc, Got solumedrol and duonebs in ER with 
some improvementin O2 sats and breathing, not back to baseline
Found to have ARF in ER, got 2L IVF. K 5.6, got kayexalate. 
Got senna and docusate for constipation. 
Admitted to Gen med for further management of COPD exacerbation, 
ARF, cellulitis, constipation. 
 
Past Medical History:
1. COPD- on home O2 (3L), FEV1 22% predicted, FEV1/FVC  
ratio 43% predicted, last intubated ___ years ago. followed by 
Pulm/Dr. ___ steroids
2. Tobacco Abuse, previous 5PPD, now ___  
3. DM II  
4. Diverticulosis  
5. h/o SBO  
6. C6-C7 HERNITATION  
7. B12 Deficiency- on monthly injections  
8. Obesity, possible OSA, but pt refuses sleep study or CPAP
9. psoriasis
10. HTN
11. GERD
12. Glaucoma
13. Recent LLE cellulitis ___ 

 
Social History:
___
Family History:
Mother and Father died of lung cancer in their ___, sister just 
recently died at age ___ from lung CA, daughter with cystic 
fibrosis
 
Physical Exam:
Vitals: 97.9  159/72  88  22  95%3L 
Pain: ___
Access: PIV
Gen: nad, appears older than stated age, on oxygen
HEENT: mmm
CV: distant HS, RRR, no m
Resp: CTAB, prolonged expiration, no wheezing
Abd; soft, nontender, +BS
Ext; no edema
Neuro: A&OX3, nonfocal
Skin: patchy areas of psoriasis (stable), b/l shins with 
hyperpigmentation, LLE anterior shin with demarkated area of 
increased pigmentation, mild erythema, and dry skin with central 
healing wound,  mild tenderness, no fluctuance
psych: appropriate
.
.
 
Pertinent Results:
wbc 8.6 
hgb 11.1-->10s, stable
HCT 31.9 stable X2days (baseline 32-35)
Chem panel BUN 37-->19, Creat 1.6-->0.8 (baseline 0.9)
Trop <0.01
.
.
EKG: NSR, no acute ST/Twave changes
.
.
Imaging/results: 
CXR: COPD changes without evidence of acute intrathoracic 
process.
.
KUB: moderate stool throughout colon
.
Echo ___: EF 55%, mild pulm HTN
.
.

 
Brief Hospital Course:
___ old male with severe COPD on home O2, DM, HTN, obesity, 
tobacco abuse admitted with worsening DOE consistent with COPD 
exacerbation.  Also found to have ARF. For his COPD 
exacerbation, started on prednisone taper (over 2weeks), 
levaquin, nebs. For his ARF, bactrim held, lasix/lisinopril 
held, recieved IVFs, improved on discharge. Has osmotic diuresis 
from hyperglycemia (while on steroids) so lasix held until he is 
off the higher dose of prednisone. Lisinopril also restarted at 
lower dose since K 4.5 and can increase back to 40mg once he is 
back on lasix to counteract the hyperK. For his hyperglycemia, 
glyburide increased to 5mg qd until he is back on prednisone 
10mg (previous dose) at which time he will take 2.5mg on days he 
takes prednisone. His recent LLE cellulits appears to have 
resolved, has chronic hyperpigmented changes but not active 
cellulitis. Set up with home ___. Will have repeat chem on ___ 
and ___, NP on ___. Dr. ___ available, she 
was updated with plan.  See progress note below for details 
according to problems: 
.
.
COPD exacerbation: no URI/no PNA, but h/o chronic bronchitis. 
compliant with inhalers but active smoker. 
-cont levo (day ___ and prednisone 40mg qd (___ today), with 
plan for slow taper over 2weeks, duonebs q4, cont home advair 
500/50 bid, flonase nasal
-monitor, currently stable on ___ nc.
.
.
Diabetes, type II, uncontrolled: sugars very elevated with 
steroids. pt states he has never taken insulin when on high 
doses of prednisone and doesnt want to. Hyperglycemia associated 
with significant osmotic diuresis (>4L/day). 
-restarted metformin 1000mg bid at home doses. Plan to increase 
glyburide to 5mg qd while on higher prednisone, until he is back 
on 10mg. Plan discussed with ___, NP 
-medium dose SSI while here
-resume ACE as above
.
.
Acute renal failure: volume depletion vs bactrim use. denies 
NSAIDs. FeNa 1.2% (on lasix) so not helpful. 
-improved with IVF and stopping bactrim. Taking good POs 
(matching I/Os)
-cont to hold lasix for now as he has significant osmotic 
diuresis (4L/day) with hyperglycemia. Will repeat Chem in 1week 
and plan to restart lasix once sugars better (on chronic dose of 
___, NP aware of this plan. 
-will keep on lisinopril at 20mg (on 40mg) since K borderline, 
can go back to 40mg once back on lasix to control hyperkalemia. 
-renally dose meds, no more bactrim (can cause hyperK and 
elevated creat)
.
.
Cellulitis, LLE. Per pt, no improvement on bactrim/cipro 
X10days. Current exam does not suggest active cellultis, rather 
chronic changes
-initially started on vanc IV (and levo) given pt's concern for 
no improvement, but seen by wound care nurse, did not feel 
active cellulitis. d/c'd Vanc ___ without worsening. Will set 
up with ___ at home who can follow wound. If it does get worse, 
will likely need IV vanc (will have completed cipro/levo)
-keep area clean/elevated/moisturized
.
.
Anemia:  ___ chronic illness and Fe def. HCT drop initially with 
IVFs but stable and No evidence of active bleeding. 
-cont Fe supp qd, bowel regimen
.
.
Constipation: resolved with bowel regimen
-docusate bid, senna qhs, dulcolax qd, miralax prn
.
.
Dyslipidemia: simva 5, ASA 325 (clarify with PCP whether needs 
325mg or 81mg-primary prevention since no h/o strokes/MI and 
high risk UGIB with prednisone/ASA)
.
.
HTN: cont norvasc 5mg, lisinopril 20mg (40mg at home and also on 
lasix)
.
.
B12 def: getting qmonth shots
.
.
Psoriasis: salicylic acid and hydrocortisone creams
.
.
GERD: omeprazole 20mg bid and ranitidine 300mg qhs
.
.
Glaucoma; xalatan drops qhs
.
.
Osteopenia: steroids, diabetes. Ca+Vit D
.
.
FEN/proph: HLIV, monitor lytes, cardiac/diabetic diet, 
TEDs/SCDs, heparin tid, PPI, bowel regimen, ___ following
.
.
Dispo/code: full code. Updated ___, NP who knows pt 
well, will ___ with her in 1week. HOme ___ set up. 

 
Medications on Admission:
Per d/c summary ___, pt confirms all  meds are the same
1. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q4H (every 4 hours).  
2. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Glyburide 2.5 mg Tablet Sig: One (1) Tablet PO EVERY OTHER 
DAY (Every Other Day).  
5. Ipratropium Bromide 17 mcg/Actuation Aerosol Sig: Two (2) 
Puff Inhalation QID (4 times a day).  
6. Lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 

7. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
8. Metformin 500 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 

day).  
9. Ranitidine HCl 150 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
10. Simvastatin 10 mg Tablet Sig: 0.5 Tablet PO QHS (once a day 
(at bedtime)).  
11. Cyanocobalamin 1,000 mcg/mL Solution Sig: One (1)  Injection 

once a month.  
12. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS 
(at bedtime).  
13. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

14. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO DAILY (Daily).  
15. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
16. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO TID 
(3 times a day).  
17. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
18. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
19. Senna 8.6 mg Tablet Sig: One (1) Tablet PO HS (at bedtime).  

20. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO twice a 
day for 2 weeks.
Disp:*28 Tablet(s)* Refills:*0*
21. Fluticasone-Salmeterol 500-50 mcg/Dose Disk with Device Sig: 

One (1) Disk with Device Inhalation BID (2 times a day).  
22. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: Two (2) 
Spray Nasal DAILY (Daily).  
23. Bactrim DS 160-800 mg Tablet Sig: One (1) Tablet PO twice a 
day for 2 weeks.
Disp:*28 Tablet(s)* Refills:*0*
24. prednisone 10mg qod

 
Discharge Medications:
1. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. Prednisone 10 mg Tablet Sig: see directions Tablet PO once a 
day: take 40mg (4tabs) X2days, then 30mg X3days, then 20mg 
X3days, then 10mg X3days, then 10mg every other day 
indefinately. Start the morning after discharge.
Disp:*100 Tablet(s)* Refills:*0*
4. Levofloxacin 250 mg Tablet Sig: Three (3) Tablet PO Q24H 
(every 24 hours) for 2 days.
Disp:*6 Tablet(s)* Refills:*0*
5. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Hydrocortisone 2.5 % Cream Sig: One (1) Appl Rectal BID (2 
times a day).  
7. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: Two (2) 
Spray Nasal DAILY (Daily).  
8. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
9. Simvastatin 10 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
10. Ranitidine HCl 150 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
11. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS 
(at bedtime).  
12. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
13. Calcium 500 + D 500 (1,250)-400 mg-unit Tablet, Chewable 
Sig: One (1) Tablet, Chewable PO twice a day.  
14. Aspirin EC 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
15. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed.  
16. Fluticasone-Salmeterol 500-50 mcg/Dose Disk with Device Sig: 
One (1) Puff Inhalation BID (2 times a day) as needed for bid.  
17. Glyburide 2.5 mg Tablet Sig: One (1) Tablet PO every other 
day: please take every day while on higher dose of prednisone.  
18. Metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a 
day.  
19. Proventil HFA 90 mcg/Actuation HFA Aerosol Inhaler Sig: One 
(1)  Inhalation every ___ hours.  
20. Combivent ___ mcg/Actuation Aerosol Sig: One (1)  
Inhalation twice a day.  
21. Lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day: 
please take only ___ (20mg) until you are back on your lasix. .  

22. Fluocinonide 0.1 % Cream Sig: One (1)  Topical as directed.  

23. MagOx 400 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
COPD exacerbation
Acute renal failure
LLE cellulitis
Constipation
Anemia
Hyperglycemia
 
Discharge Condition:
STABLE
 
Discharge Instructions:
You were admitted for COPD flare, you were started on higher 
dose of prednisone which you will taper by 10mg every 4days 
until you are back down to 10mg every other day. You will start 
with 40mg on ___ and ___, then move to 30mg X3days on ___, 
then 20mg X3days on ___, then 10mg X3days on ___, then 10mg 
every other day. If you have questions or concerns, you can 
clarify this with Dr. ___. 
You will finish the antibiotic levaquin as prescribed. 
Resume all you previous COPD medications. 
You also had a recent cellulitis of your left leg, but the wound 
care nurse did you feel you had active cellulitis this 
admission. You will be followed by a nurse at home who ___ 
direct you if she feels this is worsening. 
You are renal failure while here which may have been from 
dehydration (you are on lasix which is a water pill) or from the 
bactrim antibiotic. You are off the bactrim and your lasix 
should be held for one week and then resumed if okay by Dr. 
___. You are also sent home on a lower dose of 
lisinopril 20mg but you can go up to 40mg once you are back on 
your lasix. 
You can decrease your aspirin to 81mg since you have never had a 
heart attack or stroke. 
You sugars will be higher while you are on higher prednisone 
doses, you should increase you glyburide to 5mgdaily and closely 
monitor sugars and if persistantly above 300, call Dr. ___ 
___. Once you are down to 10mg of prednisone, take glyburide 
2.5mg on days that you take this 10mg (so take daily if you take 
prednisone daily or every other day when you take prednisone 
every other day)
You have an appointment to see ___ in 1week, please call 
to confirm.  
 
Followup Instructions:
___